US04946855
A mixture of 4-(4-methylphenyl)-2-thiazolecarboxylic acid (300 mg, 1.37 mmol) and N,N -carbonyl diimidazole (CDI) (444.3 mg, 2.74 mmol) dissolved in dry DMF (5 ml) was stirred at room temperature for 1 hour. Under the same conditions, a solution of 5-aminotetrazole (139.5 mg, 1.64 mmol) in dry DMF was added thereto, and the resulting mixture was allowed to react at 85° C. for 2 hours. After removing of the solvent from the reaction mixture by distillation, the residue was treated with water and acidified with 1N-HCl to pH 2. The deposited solids were filtered with suction, washed with water and recrystallized from methanol-THF-water to give 258 mg (yield 66%) of 4-(4-methylphenyl)-N-(1H-tetrazole-5-yl)-2-thiazolecarboxamide as pale yellow crystals, m.p. 276°-278° C.

reactant | 4-(4-methylphenyl)-2-thiazolecarboxylic acid | 1.37 mmol, 300 mg | CC1=CC=C(C=C1)C=1N=C(SC1)C(=O)O | C11H9NO2S
reactant | 5-aminotetrazole | 1.64 mmol, 139.5 mg | NC1=NN=NN1 | CH3N5
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-methylphenyl)-N-(1H-tetrazole-5-yl)-2-thiazolecarboxamide | 258 mg, yield 66% | CC1=CC=C(C=C1)C=1N=C(SC1)C(=O)NC1=NN=NN1 | C12H10N6OS
